US05665748
A mixture of 2-chloromethyl-5-methyl-2-phenyloxazole (20.8 g), 3-hydroxybenzaldehyde (12.2 g), potassium carbonate (27.6 g) and N,N-dimethylformamide (DMF) (200 ml) was heated at 90° C. for 2 hours. The reaction mixture was poured into water, and subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate (MgSO4). The solvent was distilled off, whereby 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde (26.5 g, 90%) was obtained. Recrystallization from ethanol gave colorless prisms. Melting point: 67°-68° C.

reactant | 2-chloromethyl-5-methyl-2-phenyloxazole | 20.8 g | ClCC1(OC(=CN1)C)C1=CC=CC=C1 | C11H12ClNO
reactant | 3-hydroxybenzaldehyde | 12.2 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzaldehyde | 26.5 g, 90% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=O)C=CC1 | C18H15NO3
